US08871782B2
A mixture of 4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-ol (500 mg, 1.53 mmol), 2-bromo-1-(morpholin-4-yl)ethanone (351 mg, 1.69 mmol), cesium carbonate (1.5 g, 4.59 mmol) and anhydrous DMF was heated at 70° C. overnight. The reaction mixture was cooled, poured into water (350 mL), and then extracted with dichloromethane (2×100 mL). The combined organics were dried over magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was dissolved in dichloromethane and filtered. The filtrate was purified by chromatography on a HORIZON HPFC system (eluting with a gradient of 0 to 8% methanol in dichloromethane). The product was recrystallized from acetonitrile to provide 362 mg of 2-ethyl-7-(2-morpholin-4-yl-2-oxoethoxy)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, mp 245-247° C. Anal. calcd for C24H31N5O4: C, 63.56; H, 6.89; N, 15.44. Found: C, 63.20; H, 6.78; N, 15.31.

reactant | 4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 1.53 mmol, 500 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCOCC2)CC)O | C18H22N4O2
reactant | 2-bromo-1-(morpholin-4-yl)ethanone | 1.69 mmol, 351 mg | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | cesium carbonate | 4.59 mmol, 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | 350 mL | O | H2O
product | 2-ethyl-7-(2-morpholin-4-yl-2-oxoethoxy)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 362 mg | C(C)C=1N(C2=C(C(=NC=3C=C(C=CC23)OCC(=O)N2CCOCC2)N)N1)CC1CCOCC1 | C24H31N5O4
